US04107307
6-Methoxymethyl-imidazo[1,5-d]-as-triazine-4-(3H)-thione
A miture of 62.4 gm. of 3 -[2-(methoxymethyl)-4-imidazolyl]methylene dithiocarbazic acid methyl ester and 250 ml. of diphenyl ether is reacted as described in Example 58 giving the desired product, m.p. 219.5°-223° C.

reactant | 3 -[2-(methoxymethyl)-4-imidazolyl]methylene dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1)COC)=S | C8H12N4OS2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Methoxymethyl-imidazo[1,5-d]-as-triazine-4-(3H)-thione | COCC1=NC=C2N1C(NN=C2)=S | C7H8N4OS
